US05767129
1-Bromo-4,4-diphenylbutane
4,4-Diphenyl-1-butanol (22.41 g, 0.099 mol) was dissolved in ether (250 mL). CBr4 (41.07 g, 0.123 mol) was added and the reaction cooled to 0° C. Triphenylphosphine (38.96 g, 0.148 mol) in ether (400 mL) was added dropwise to the reaction. The reaction was then allowed to warm to room temperature overnight. DMSO (3.51 mL) was added, and the reaction allowed to stir for 8 hours. The white precipitate was filtered and washed with ether (100 mL). The ether was removed in vacuo, and the residue washed with hexanes and filter. The hexanes were removed in vacuo, and the residue chromatographed on silica gel eluting with hexanes to give 20.72 g (72%) of desired product as an oil.

reactant | 4,4-Diphenyl-1-butanol | 0.099 mol, 22.41 g | C1(=CC=CC=C1)C(CCCO)C1=CC=CC=C1 | C16H18O
reactant | CBr4 | 0.123 mol, 41.07 g | C(Br)(Br)(Br)Br | CBr4
reactant | Triphenylphosphine | 0.148 mol, 38.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DMSO | 3.51 mL | CS(=O)C | C2H6OS
solvent | ether | 250 mL | CCOCC | C4H10O
solvent | ether | 400 mL | CCOCC | C4H10O
product | 1-Bromo-4,4-diphenylbutane | 20.72 g, 72% | BrCCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H17Br
